US07547680B2
2-[3-(2-Carboxyethyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-[3-(2-Carboxyvinyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole (30 mg) was dissolved in methanol (2 mL). To the solution was added a catalytic amount of 10% palladium-carbon powder, and the mixture was stirred at room temperature under a hydrogen atmosphere for 1 hour. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (25 mg).

reactant | 2-[3-(2-Carboxyvinyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 30 mg | C(=O)(O)C=CC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C22H23N3O6
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 2-[3-(2-Carboxyethyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 25 mg | C(=O)(O)CCC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C22H25N3O6
